US07851626B2
rac-(4S*,5R*)-4,5-Bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4-methyl-4,5-dihydro-imidazole-1-carboxylic acid (2-dimethylamino-ethyl)-amide
In a manner analogous to the method described in example 5, rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4-methyl-4,5-dihydro-imidazole-1-carbonyl chloride was reacted with N,N-dimethyl-1,2-ethanediamine (Aldrich) to give the title compound. LC-MS: 583.2 [(M+H)+]

reactant | rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4-methyl-4,5-dihydro-imidazole-1-carbonyl chloride | ClC1=CC=C(C=C1)C1(N=C(N(C1C1=CC=C(C=C1)Cl)C(=O)Cl)C1=C(C=C(C=C1)OC)OC(C)C)C | C27H25Cl3N2O3
reactant | N,N-dimethyl-1,2-ethanediamine | CN(CCN)C | C4H12N2
product | rac-(4S*,5R*)-4,5-Bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4-methyl-4,5-dihydro-imidazole-1-carboxylic acid (2-dimethylamino-ethyl)-amide | CN(CCNC(=O)N1C(=NC(C1C1=CC=C(C=C1)Cl)(C)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)OC)OC(C)C)C | C31H36Cl2N4O3
